US09107916B2
A. (2E)-3-(dimethylamino)-1-[4-(methylsulfonyl)phenyl]prop-2-en-1-one
The title compound was prepared in 87% yield from 1-[4-(methylsulfonyl)phenyl]ethanone and DMF-DMA according to the procedure for the preparation of Example 12, part A. 1H NMR (400 MHz, CDCl3): δ 2.96 (3H, s), 3.06 (3H, s), 3.19 (3H, s), 5.66 (1H, d, J=12 Hz), 7.83 (1H, d, J=12 Hz), 7.96-8.04 (4H, m).

reactant | 1-[4-(methylsulfonyl)phenyl]ethanone | CS(=O)(=O)C1=CC=C(C=C1)C(C)=O | C9H10O3S
reactant | DMF-DMA | CN(C)C(OC)OC | C5H13NO2
product | (2E)-3-(dimethylamino)-1-[4-(methylsulfonyl)phenyl]prop-2-en-1-one | 87% yield | CN(/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)C)C | C12H15NO3S
